US05120733
2-Oxo-1-[[2-(1,2,4-triazol-1-yl)ethyl]carbamoyl]pyrrolidine (Ia-34)
To a solution of 1.9 g (27.5 mmol) of 1,2,4-triazole in 15 ml of DMF was added 1.1 g (27.5 mmol) of 60% NaH, and the mixture was heated at 90° C. for about 2 hr. Then, 13 ml of DMF containing 3.50 g (18.4 mmol) of 1-[(2-chloroethyl)carbamoyl]-2-oxopyrrolidine (III-1) was added to the mixture, which was heated at 90° C. for 4.5 hr. The reaction solution was poured into CH2Cl2, and the insoluble material was removed by filtration. After evaporating the solvent, the CH2Cl2 layer was refined by silica gel column chromatography, whereby 2.28 g (55.6%) of the objective compound (Ia-34) was obtained from the eluate with CH2Cl2 -methanol (20/1 v/v). The crystals melting at 106.0°-107.0° C. were obtained by recrystallizing from ethanol.

reactant | 1,2,4-triazole | 27.5 mmol, 1.9 g | N1N=CN=C1 | C2H3N3
reactant | NaH | 27.5 mmol, 1.1 g | [H-].[Na+]
reactant | 1-[(2-chloroethyl)carbamoyl]-2-oxopyrrolidine | ClCCNC(=O)N1C(CCC1)=O | C7H11ClN2O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 18.4 mmol, 13 ml, 3.50 g | CN(C)C=O | C3H7NO
product | 2-Oxo-1-[[2-(1,2,4-triazol-1-yl)ethyl]carbamoyl]pyrrolidine | 2.28 g, 55.6% | O=C1N(CCC1)C(NCCN1N=CN=C1)=O | C9H13N5O2
